US07026339B2
To a solution of 2-(1-naphthylmethoxy)benzaldehyde (300 mg, 1.14 mmol) in EtOH (10 mL) is added phenyl acetic hydrazide (172 mg, 1.14 mmol) and the reaction is heated to 80° C. for 1 h. While cooling a white precipitate forms, and this solid is isolated by filtration and washed with portions of EtOH and Et2O. This solid is dried under vacuum to provide N′-{(1E)-[2-(1-naphthylmethoxy)phenyl]methylene-2-phenylacetohydrazide (254 mg, 57%). 1H-NMR (400 MHz, DMSO-d6) 11.60–11.55 (m, 1H), 8.43–8.38 (m, 1H), 8.11–7.74 (m, 4H), 7.60–7.56 (m, 2H), 7.44–7.42 (m, 2H), 7.31–7.21 (m, 4H), 7.05–7.04 (m, 1H), 5.65–5.63 (m, 2H), 3.96 (s, 1H), 3.54 (s, 1H), 3.34 (s, 3H). ESI+ for C26H22N2O2 m/z 395 (M+H)+.

reactant | 2-(1-naphthylmethoxy)benzaldehyde | 1.14 mmol, 300 mg | C1(=CC=CC2=CC=CC=C12)COC1=C(C=O)C=CC=C1 | C18H14O2
reactant | phenyl acetic hydrazide | 1.14 mmol, 172 mg | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
solvent | EtOH | 10 mL | CCO | C2H6O
product | (1E)-[2-(1-naphthylmethoxy)phenyl]methylene-2-phenylacetohydrazide | 254 mg, 57% | C1(=CC=CC2=CC=CC=C12)COC1=C(C=CC=C1)\C=C(\C(=O)NN)/C1=CC=CC=C1 | C26H22N2O2
